US07238808B2
4-[5-(4-Chloro-phenyl)-7-methyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 5-(4-chloro-phenyl)-3-iodo-7-methyl-pyrazolo[1,5-a]pyrimidine (92 mg, 0.25 mmol) and 4-ethynyl-benzenesulfonamide (45 mg, 0.25 mmol) according to general procedure II. Obtained as an orange solid (52 mg, 49%). MS (ISP) 423.3 [(M+H)+]; mp 230–233° C.

reactant | 5-(4-chloro-phenyl)-3-iodo-7-methyl-pyrazolo[1,5-a]pyrimidine | 0.25 mmol, 92 mg | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C)N=CC2I | C13H9ClIN3
reactant | 4-ethynyl-benzenesulfonamide | 0.25 mmol, 45 mg | C(#C)C1=CC=C(C=C1)S(=O)(=O)N | C8H7NO2S
product | 4-[5-(4-Chloro-phenyl)-7-methyl-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C)N=CC2C#CC2=CC=C(C=C2)S(=O)(=O)N | C21H15ClN4O2S
